US07723369B2
4-[2-(4-Bromo-benzyl)-1-(4-Nitro-phenyl)-1H-imidazol-4-yl]-benzoicacid methyl ester (9.8 g, 20 mmol) was reduced to amine and was reacted with methyl bromoacetate following general procedures D & E to give 4-{2-(4-Bromo-benzyl)-1-[4-(methoxycarbonylmethyl-amino)-phenyl]-1H-imidazol-4-yl}-benzoic acid methyl ester.

reactant | 4-[2-(4-Bromo-benzyl)-1-(4-Nitro-phenyl)-1H-imidazol-4-yl]-benzoicacid methyl ester | 20 mmol, 9.8 g | COC(C1=CC=C(C=C1)C=1N=C(N(C1)C1=CC=C(C=C1)[N+](=O)[O-])CC1=CC=C(C=C1)Br)=O | C24H18BrN3O4
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
product | 4-{2-(4-Bromo-benzyl)-1-[4-(methoxycarbonylmethyl-amino)-phenyl]-1H-imidazol-4-yl}-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C=1N=C(N(C1)C1=CC=C(C=C1)NCC(=O)OC)CC1=CC=C(C=C1)Br)=O | C27H24BrN3O4
